US07838499B2
Preparation of 2-(cyclohex-2-enyloxy)ethyl 4-methylbenzenesulfonate (Intermediate BV)
To 2-(cyclohex-2-enyloxy)ethanol (intermediate BU) (0.3 g) in anhydrous pyridine was added TsCl (1.3 eq). The mixture was stirred at room temperature for 16 h, after which TLC showed the reaction was complete. The mixture was poured into water, extracted with EA, washed with water and brine, and dried with anhydrous Na2SO4. Solvent was removed and the residue purified by column chromatography to obtain intermediate BV (0.3 g).

reactant | 2-(cyclohex-2-enyloxy)ethanol | 0.3 g | C1(C=CCCC1)OCCO | C8H14O2
reactant | TsCl | 1.3 eq | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | water | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-(cyclohex-2-enyloxy)ethyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCOC1C=CCCC1 | C15H20O4S
